US08633190B2
Step 3: 4-[7-(3-Fluoro-benzoylamino)-1-oxo-2-aza-spiro[4.5]dec-2-yl]-piperidine-1-carboxylic acid tert-butyl ester
4-(7-Amino-1-oxo-2-aza-spiro[4.5]dec-2-yl)-piperidine-1-carboxylic acid tert-butyl ester (0.20 g, 0.57 mmol), 3-fluorobenzoic acid (0.080 g, 0.56 mmol), BOP (0.252 g, 0.57 mmol), and triethylamine (0.115 g, 1.14 mmol) in methylene chloride (5.0 mL) was stirred at rt overnight. The mixture was concentrated, and the resulting residue was purified with chromatography (ethyl acetate) to afford the title compound which is a mixture of two diastereomers (cis/trans: 3/2; under LC-MS method C, the first peak with RT of 1.47 min was assigned as cis, and the second peak with RT of 1.50 min was assigned as trans.). 1H NMR (400 MHz, CDCl3) δ 8.5 (s, 0.6 H), 7.60-7.68 (m, 1H), 7.36-7.50 (m, 2H), 7.14-7.20 (m, 1H), 5.92 (d, J=6.8 Hz, 0.4 H), 4.55-4.65 (m, 0.4 H), 4.04-4.38 (m, 3.6H), 3.20-3.30 (m, 2H), 2.71-2.86 (m, 2H), 1.28-2.25 (m, 23H). ESI-MS m/z: 474 (M+H)+.

reactant | 4-(7-Amino-1-oxo-2-aza-spiro[4.5]dec-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.57 mmol, 0.20 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(C2(CC1)CC(CCC2)N)=O | C19H33N3O3
reactant | 3-fluorobenzoic acid | 0.56 mmol, 0.080 g | FC=1C=C(C(=O)O)C=CC1 | C7H5FO2
reactant | BOP | 0.57 mmol, 0.252 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 1.14 mmol, 0.115 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 4-[7-(3-Fluoro-benzoylamino)-1-oxo-2-aza-spiro[4.5]dec-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(C2(CC1)CC(CCC2)NC(C2=CC(=CC=C2)F)=O)=O | C26H36FN3O4
